US06960575B2
Ethyl 2-(2,2-diethoxyethylthio)acetate (Reference compound No. 34-1)
Sodium ethoxide (2.83 g) is added to a solution of ethyl thioglycolate (5.00 g) and bromoacetaldehyde diethylacetal (8.20 g) in ethanol (150 ml), and the mixture is refluxed for three hours. The reaction mixture is allowed to stand at room temperature, water is added to the mixture, and the whole is extracted with diethyl ether. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (5.75 g).

reactant | Sodium ethoxide | 2.83 g | [O-]CC.[Na+]
reactant | ethyl thioglycolate | 5.00 g | C(CS)(=O)OCC | C4H8O2S
reactant | bromoacetaldehyde diethylacetal | 8.20 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 2-(2,2-diethoxyethylthio)acetate | 5.75 g | C(C)OC(CSCC(=O)OCC)OCC | C10H20O4S
